US09169240B2
To a solution of tert-butyl methyl oxalate (5.8 g, 36 mmol) and methyl 2-(benzyloxy)acetate (6.5 g, 36 mmol) in THF (80 mL) at −78° C. was added a dropwise a solution of LDA (prepared by dropwise addition of nBuLi (20 mL, 50 mmol) to diisopropylamine (7.1 mL, 50 mmol) in THF (20 mL) at 0° C. then stirring for 10 min. After the addition, the reaction mixture was stirred at −78° C. for 2 h then allowed to warm to rt over the course of 1 h. The reaction mixture was cooled to 0° C. then cold 1 N HCl (ca. 70 mL) was added. The resulting solution was extracted with EtOAc (3×), and the combined organic portions dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with EtOAc/hexanes to give 4-tert-butyl 1-methyl 2-(benzyloxy)-3-hydroxyfumarate (5.4 g, 49% yield) as tan viscous oil. O-Methylisourea hydrogensulfate (2.5 g, 14 mmol) and 4-tert-butyl 1-methyl 2-(benzyloxy)-3-hydroxyfumarate (5.4 g, 17 mmol) were stirred in anhydrous MeOH (15 mL) at 0° C. under argon. Sodium methoxide (10 g, 46 mmol) in MeOH (25% wt) was added and the reaction mixture was stirred at room temperature for 40 h. MeOH (3 mL) was added and the mixture cooled in an ice bath. 1 N HCl (11 mL) was added to acidify the mixture and the resulting precipitate was collected and rinsed with cold H2O:MeOH (10:1). The filtrate was concentrated under reduced pressure and the residue was extracted with CH2Cl2 (2×). The organic extracts and the precipitate were combined, concentrated under reduced pressure, then purified by silica gel chromatography eluting with EtOAc/hexanes to give Compound 46d (2.8 g, 58% yield) as a white solid. LCMS ESI 333.2 (M+H-tBu), RT=2.02 min (Method Q). 1H NMR (400 MHz, DMSO-d6) δ 13.48-12.16 (m, 1H), 7.91-6.79 (m, 5H), 5.02 (s, 2H), 3.86 (s, 3H), 1.44 (s, 9H).

reactant | tert-butyl methyl oxalate | 36 mmol, 5.8 g | C(C(=O)OC)(=O)OC(C)(C)C | C7H12O4
reactant | methyl 2-(benzyloxy)acetate | 36 mmol, 6.5 g | C(C1=CC=CC=C1)OCC(=O)OC | C10H12O3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | nBuLi | 50 mmol, 20 mL | [Li]CCCC
reactant | diisopropylamine | 50 mmol, 7.1 mL | C(C)(C)NC(C)C | C6H15N
reactant | HCl | 1 N, ca. 70 mL | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-tert-butyl 1-methyl 2-(benzyloxy)-3-hydroxyfumarate | 5.4 g, 49% yield | C(C1=CC=CC=C1)O/C(/C(=O)OC)=C(\C(=O)OC(C)(C)C)/O | C16H20O6
